US06211199B1
19.5.1 Synthesis of 1-benzyl-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)-2-oxopyrrolidine
Prepare by the method of Example 2.6 using 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine (0.99 g, 2.6 mmol) and (1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.80 g, 2.6 mmol) to give the title compound: Rf=0.22 (silica gel, 5% methanol/ethyl acetate/2% triethylamine).

reactant | 1-benzyl-3-(phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | 2.6 mmol, 0.99 g | C(C1=CC=CC=C1)N1C(C(CC1)(CCOS(=O)(=O)C)CC1=CC=CC=C1)=O | C21H25NO4S
reactant | (1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 2.6 mmol, 0.80 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)NC3CCNCC3)C=C1 | C19H21FN4
product | 1-benzyl-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)-2-oxopyrrolidine | C(C1=CC=CC=C1)N1C(C(CC1)(CC1=CC=CC=C1)CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C39H42FN5O
